US04200313
Following a procedure similar to that described in Example 4 but employing 4.0 g of 5-(dimethylamino)-2-[4-(ethylbenzylamino)benzoyl]benzoic acid and 2.2 g of 4-ethoxy-N-phenylaniline there was obtained 3.0 g of 6-(dimethylamino)-3-[4-(ethylbenzylamino)phenyl]-3-[(4-ethoxyphenyl)phenylamino]phthalide, m.p. 148°-152° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed an orange-colored image which changed to green on clay after fluorescent light exposure.

reactant | 5-(dimethylamino)-2-[4-(ethylbenzylamino)benzoyl]benzoic acid | 4.0 g | CN(C=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)N(CC1=CC=CC=C1)CC)=O)C | C25H26N2O3
reactant | 4-ethoxy-N-phenylaniline | 2.2 g | C(C)OC1=CC=C(NC2=CC=CC=C2)C=C1 | C14H15NO
product | 6-(dimethylamino)-3-[4-(ethylbenzylamino)phenyl]-3-[(4-ethoxyphenyl)phenylamino]phthalide | 3.0 g | CN(C1=CC=C2C(OC(=O)C2=C1)(N(C1=CC=CC=C1)C1=CC=C(C=C1)OCC)C1=CC=C(C=C1)N(CC1=CC=CC=C1)CC)C | C39H39N3O3
